Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
SOB, Chest pain  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ year old F with recent diagnosis of bilateral PEs 
with only risk factor of OCPs who is re-admitted with worsening 
chest pain and SOB after being home for 2 days. She was just 
admitted from ___ to ___ after being transferred from ___ 
___ with chest pain. During the admission, she was found to 
be tachycardic and hypoxic with an elevated d-dimer and CTA 
showing bilateral PEs (with report of large clot burden) and 
infarction of segment of R lung. ECHO showed RV cavity 
enlargement with low normal free wall motion and ECG showed 
question of new RBBB. She was treated with 80 mg Lovenox SC BID 
and started on coumadin which she states that she has been 
compliant.  
.  
She was feeling well the day after discharge requiring very 
minimal pain med and this morning she woke up at 1:30 AM with 
worsening chest pain. The pain is pleuritic in nature and 
primarily R sided. This is very similar to original PE pain 
presentation, but lesser in intensity ___ instead of ___. She 
feels it is improved with moving around as she often splints 
when she sits still. She denies having any other associated 
symptoms, no pain on her calf, no shortness of breath, no 
palptations, no diaphoresis, no n/v, no other complaints except 
for short episode of lightheadedness this morning while she was 
sitting up, only lasted a few seconds and went away. As she was 
concerned about her recent presentation and worsening of her 
pain, she came in to the ED for evaluation.  
.  
In the ED, initial vs were: T 99.6 110 124/71 20 100% on RA. 
Patient was given dilaudid 2 mg PO x1 and was started on a 
heparin gtt for anticoagulation in place of lovenox per ED 
attending. She states that Dilaudid helps decrease the pain, but 
doesn't go way completely.  
.  
On the floor, her vitals are stable. She appears uncomfortable 
sitting up in bed. She is taking shallow breaths due to pain.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, palpitations. Denied nausea, vomiting, 
diarrhea, constipation or abdominal pain. No recent change in 
bowel or bladder habits. No dysuria. Denied arthralgias or 
myalgias, or calf pain.  
.  

 
Past Medical History:
Bilateral PEs in ___
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. No family hx 
of miscarriages, autoimmunity or blood clots.  
 
Physical Exam:
Vitals: T: 98.7 F BP:121/80 P: 100 R: 16 O2: 100%  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Shallow breaths, sl. decreased BS on right base. Over 
difficult to evaluate since patient not taking deep breaths. No 
wheezes, rales, ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: cool to touch, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema 
 
Pertinent Results:
___ 05:20AM BLOOD WBC-5.5 RBC-4.00* Hgb-11.2* Hct-34.9* 
MCV-87 MCH-28.0 MCHC-32.1 RDW-13.6 Plt ___
___ 05:30AM BLOOD WBC-6.5 RBC-3.84* Hgb-11.2* Hct-33.2* 
MCV-87 MCH-29.2 MCHC-33.8 RDW-13.5 Plt ___
___ 02:40PM BLOOD WBC-7.7 RBC-4.28 Hgb-12.2 Hct-37.1 MCV-87 
MCH-28.5 MCHC-32.9 RDW-13.7 Plt ___
___ 05:20AM BLOOD ___ PTT-120.8* ___
___ 05:21PM BLOOD ___ PTT-64.7* ___
___ 05:30AM BLOOD ___ PTT-121.8* ___
___ 02:40PM BLOOD ___ PTT-35.6* ___
___ 05:20AM BLOOD Glucose-83 UreaN-3* Creat-0.5 Na-141 
K-4.2 Cl-107 HCO3-25 AnGap-13
___ 02:40PM BLOOD Glucose-123* UreaN-8 Creat-0.6 Na-140 
K-4.0 Cl-104 HCO3-27 AnGap-13
___ 11:30PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 02:40PM BLOOD cTropnT-<0.01
___ 11:30PM BLOOD CK(CPK)-30
___ 02:40PM BLOOD CK(CPK)-39
___ 05:20AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.1
___ 02:40PM BLOOD HCG-<5
.
.
.
Chest CTA
Final Report 
INDICATION: ___ woman with recent severe bilateral PE, 
now with 
increased pain, query progression of clot despite being on 
anticoagulation. 
  
COMPARISON: ___ study from ___. 
  
TECHNIQUE: Multiple MDCT axial images were obtained through the 
chest after 
the uneventful administration of 100 cc of Optiray 
intravenously. Enteric 
contrast was not administered. Multiplanar reformats were 
derived. 
  
FINDINGS: There is no axillary or mediastinal pathologic 
lymphadenopathy.  
The pulmonary artery measures 2.1 cm, normal. No new pulmonary 
embolus is 
seen and the thrombus burden is apparently decreased from before 
with 
non-artery enlarging thrombus seen in the arteries to the 
posterior segment of 
the right lower lobe. The aorta is normal in caliber and course. 
The heart 
is normal in size. There is no pericardial effusion. The 
esophagus appears 
normal. 
  
Airways are patent to the level of subsegmental bronchi. There 
are new 
bilateral pleural effusions, larger on the right where there is 
associated 
relaxation atelectasis. There is a 4mm nodule in the right 
middle lobe ___ 
2, image 38). There is no pneumothorax. Mild air trapping is 
seen in both 
lower lobes. 
  
This study is not optimized to assess the abdomen. Within this 
limitation, 
the liver and spleen appear normal. There is no suspicious 
osteolytic or 
osteoblastic lesion. 
  
IMPRESSION:  
1. Improved appearance with no new pulmonary embolus. Small 
residual 
segmental emboli, right lower lobe.  
2. New pleural effusions are larger on the right with associated 
relaxation 
atelectasis. 
3. Right pulmonary nodules. If low risk no follow required. If 
high risk 
then , per ___ Society guidelines, 12month follow up 
required. 
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 
___: SAT ___ 11:03 ___ 
.
.
.
Final Report 
INDICATION: Chest pain. 
  
COMPARISON: None available. 
  
FINDINGS: PA and lateral views of the chest show the lungs to be 
clear.  
Cardiac, mediastinal and hilar contours are normal. There no 
pleural 
effusions or pneumothorax. A faint opacity projecting 
posteriorly over the 
right hemidiaphragm may reflect a small eventration or Bochdalek 
hernia, 
though a pulmonary consolidation is also a consideration. 
  
IMPRESSION: Posterior density over the right hemidiaphragm. This 
may reflect 
a Bochdalek hernia, though a pulmonary opacity is also a 
consideration. 
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 
___: WED ___ 7:46 ___ 

 
Brief Hospital Course:
___ with recent diagnosis of b/l PEs with large clot burden, 
infarcted lung segement, on lovenox and coumadin recently d/c'd 
who is presenting with worsening pleuritic chest pain, 
hemodynamically stable on RA, sx likely due to premature 
termination of her home pain meds, but initially concerning for 
clot progression while on lovenox.  
.  
# Chest Pain: Likely secondary to pulmonary PEs, give it is 
pleuritic and similar to original pain on presentation with 
lower intensity. This could be due to either reperfusion, 
infarction of the tissue, or pleural irritation from clot 
destruction. Patient states that she was compliant with 
anticoagulation and had been taking lovenox and coumadin as 
prescribed. Her INR is 1.5 on admission. She may have stopped 
taking her home pain meds prematurely however, but initially 
this was also concerning for progression of emboli despite 
anticoagulation. A repeat CTA showed decrease in clot burden and 
no new findings aside from previous segmental infarction. Also 
showed some small pulmonary nodules which may be followed up as 
an outpatient in 12 months if the patient is considered to be 
high risk based on ___ guidelines, otherwise they 
do not need followup. She was sent home with instructions to 
manage her pain with dilaudid po prn and standing ibuprofen. 
.  
# Bilateral PEs: No clear reason to discontinue lovenox. 
However, progression of clot burden is a possibility. Data 
suggests that in hemodynamically stable patients, SC lovenox is 
preferred over UFH and results in lower mortality, decreased 
recurrent thrombosis as well as better thrombus size reduction. 
A repeat CTA did not show any progression of embolic disease (no 
concern for failure on lovenox) and the patient was ultimately 
therapeutic on her coumadin which she was discharged on (5mg 
daily) to be followed up by her PCP in clinic in the coming 
week. 
.  
# Gingivostomitis: has h/o labial cold sores. now with apparent 
flare causing discomfort. she was sent home with PO acyclovir 
400 q8 for HSV 1 treatment ___
.

 
Medications on Admission:
Lovenox 80 mg SC BID  
Coumadin 5 mg daily  
Ibuprofen 800 mg Q8H prn  
Dilaudid 2 mg Q4H prn  
Tylenol prn  
Docusate prn  
Senna prn  
minocycline  
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): please take while taking dilaudid. do not take if 
you are having loose stools. .  
2. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
3. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q8H (every 8 
hours) for 8 days.
Disp:*128 Capsule(s)* Refills:*0*
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): please take while taking dilaudid. do not take if you are 
having loose stools. . Tablet(s) 
5. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours).  
6. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for severe pain : do not take while driving or if you 
feel sedated.
Disp:*25 Tablet(s)* Refills:*0*
7. Outpatient Lab Work
Please draw ___ and INR on ___. Please fax results to 
Dr. ___ at fax ___.  Tel: ___.
Thank you.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
pulmonary embolism
.
Secondary:
herpes labialis

 
Discharge Condition:
afebrile, stable vitals, tolerating POs
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You were admitted due to pain from your pulmonary embolus. Based 
on your CT scan, the clots appear to be resolving. Your pain was 
likely due to the fact that you did not consistently take your 
dilaudid and ibuprofen at home for a long enough time. Your pain 
will improve over the course of several days. You were 
discharged with dilaudid, ibuprofen, amd coumadin. You should 
have blood drawn on ___ to check your INR, and have 
the results faxed to Dr. ___. You are also given acyclovir to 
be taken for 8 more days for your cold sores. 
.
Please take all medications as prescribed.
Please follow up with all appointments.
Please do not hesitate to return to the hospital for any 
concerning symptoms at all.
 
Followup Instructions:
___